US08609644B2
To a solution of 3α-methanesulfonyloxyandrostane-6,17-dione (2.00 g) in dry DMF (25 mL), thioacetic acid potassium salt (1.20 g) was added. The mixture was heated to 70° C. for 3 h. After cooling, 5% NaH2PO4 was added and extracted with EtOAc (3×). The organic extracts were washed with brine, dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography (SiO2, n-hexane/EtOAc 8/2) to give 3β-acetylthioandrostane-6,17-dione in 55% yield as a yellow solid. 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 4.50 (1H, m), 3.10 (3H, s), 2.50-0.90 (20H, m), 0.88 (3H, s), 0.77 (3H, s).

reactant | 3α-methanesulfonyloxyandrostane-6,17-dione | 2.00 g | CS(=O)(=O)O[C@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O | C20H30O5S
reactant | thioacetic acid potassium salt | 1.20 g | [K+].C(C)(=S)[O-]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3β-acetylthioandrostane-6,17-dione | 55% yield | C(C)(=O)S[C@@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O | C21H30O3S
